US07319109B2
e) Methyl 3-{[(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)(methyl)amino]sulfonyl}benzoate.
A solution of methyl 3-{[(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)amino]sulfonyl}benzoate (32 mg, 56 μmol) in dimethylformamide (560 μL) was stirred with cesium carbonate (91 mg, 280 μmol) and methyl iodide (17.3 μL, 280 μmol) at 80° C. in a sealed vial. Water (2 mL) was added and the product was extracted with 50% ethyl acetate/hexanes. Yield=31 mg 94%) of methyl 3-{[(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)(methyl)amino]sulfonyl}benzoate.

reactant | methyl 3-{[(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)amino]sulfonyl}benzoate | 56 μmol, 32 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)NS(=O)(=O)C=1C=C(C(=O)OC)C=CC1)C)C(C)C | C28H26Cl2N2O6S
reactant | cesium carbonate | 280 μmol, 91 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 280 μmol, 17.3 μL | CI | CH3I
reactant | Water | 2 mL | O | H2O
solvent | dimethylformamide | 560 μL | CN(C=O)C | C3H7NO
product | Methyl 3-{[(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)(methyl)amino]sulfonyl}benzoate | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)N(S(=O)(=O)C=1C=C(C(=O)OC)C=CC1)C)C)C(C)C | C29H28Cl2N2O6S
